US06180635B2
2-{[1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]thio}pyridine N-oxide
A solution of lithium diisopropylamide (1.55 mmol) in anhydrous tetrahydrofuran (5 ml) was added dropwise to a solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (0.50 g)) in anhydrous tetrahydrofuran (10 ml) at −78° C. under nitrogen. After 20 minutes, 2,2′-dithiobis(pyridine N-oxide) (0.40 g) was added and the mixture was warmed to room temperature. After 2 hours, saturated sodium hydrogen carbonate solution (100 ml) was added and the mixture was extracted with ethyl acetate (3×50 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with ethyl acetate:methanol (19:1) and then recrystallised from ethyl acetate to give the title compound (0.18 g).

reactant | lithium diisopropylamide | 1.55 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.50 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H22N2O2S
reactant | 2,2′-dithiobis(pyridine N-oxide) | 0.40 g | C1=CC=[N+](C(=C1)SSC2=CC=CC=[N+]2[O-])[O-] | C10H8N2O2S2
reactant | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-{[1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]thio}pyridine N-oxide | 0.18 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SC2=[N+](C=CC=C2)[O-])CC(C)C)=O | C27H25N3O3S2
